US06518004B2
Dimethyl 2,6-naphthalenedicarboxylate and dimethyl sebacate were dispersed in ethylene glycol. Then, 0.029 part of manganese acetate tetrahydrate, 0.028 parts of antimony trioxide and 0.1% of spherical silica particles having a mean particle size of 0.3 μm were added to 100 parts of the total of dimethyl 2,6-naphthalenedicarboxylate and dimethyl sebacate, and heated with stirring to conduct the reaction. The temperature was elevated to 235° C. while removing methanol produced as a by-product. After the by-production of methanol was completed, 0.03 part of trimethyl phosphate was added thereto. Then, the pressure was reduced to 0.3 Torr while elevating the temperature to 285° C., thereby conducting the polymerization. Dyes described in JP-A-7-168309, compounds 1-6 and I-24, were each further added to the solid matter in an amount of 54 ppm. The copolymerization ratio of sebacic acid (SA) and the intrinsic viscosity of a polyester thus obtained are shown in Table II-1.

reactant | Dimethyl 2,6-naphthalenedicarboxylate | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | dimethyl sebacate | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
reactant | antimony trioxide | O=[Sb]O[Sb]=O
reactant | trimethyl phosphate | P(=O)(OC)(OC)OC | C3H9O4P
solvent | ethylene glycol | C(CO)O | C2H6O2
catalyst | manganese acetate tetrahydrate | O.O.O.O.C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | methanol | CO | CH4O
product | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
